US07576241B2
23.1) 4-amino-2,6-dimethylphenol
A solution of 1 g (6 mmol) of 2,6-dimethyl-4-nitrophenol in 20 ml of ethanol is placed under 1.5 bar of hydrogen in the presence of 10% Pd/C for 1 hour. The Pd/C is eliminated by filtration on celite and the filtrate is concentrated under reduced-pressure. The evaporation residue crystallizes spontaneously, it is washed twice with 50 ml of heptane and dried overnight under vacuum. A cream coloured solid is obtained with a yield of 86%.

reactant | 2,6-dimethyl-4-nitrophenol | 6 mmol, 1 g | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)O | C8H9NO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 4-amino-2,6-dimethylphenol | yield of 86% | NC1=CC(=C(C(=C1)C)O)C | C8H11NO
